US04107304
B. 1-Chlorocarbonyl-2-oxo-3-sulphamyl-imidazolidine
A solution of 17.8 parts by vol. of triethylamine in 30 parts by vol. of dichloromethane was added dropwise over the course of 2 hrs. to a mixture of 100 parts by vol. of dichloromethane, 6.15 parts by vol. of (condensed) phosgene and 7.0 parts by wt. of 1-sulphamyl-2-oxo-imidazolidine at 20° C and the mixture was then left to stand for 17 hrs. The precipitate present was removed by filtration, the filtrate was concentrated by evaporation in vacuo and the residue was repeatedly extracted with ethyl acetate at 20° C. The ethyl acetate extracts were combined. On evaporation, they left a hard varnish. The IR spectrum showed a strong acid chloride band at 1,805 cm-1 (Nujol). Furthermore, it could be seen from the IR spectrum that the substance still contained considerable amounts of the starting product.

reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 1-sulphamyl-2-oxo-imidazolidine | S(N)(=O)(=O)N1C(NCC1)=O | C3H7N3O3S
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-Chlorocarbonyl-2-oxo-3-sulphamyl-imidazolidine | ClC(=O)N1C(N(CC1)S(N)(=O)=O)=O | C4H6ClN3O4S
